US06777557B2
3-(2-Oxo-2-phenylethyl)-2-(1-benzoyloxyethyl)thiazolium bromide
1-(2-Thiazolyl)ethyl benzoate (2.0 g, 8.5 mmole), 2-bromo-1-phenyl-1-ethanone (1.7 g, 8.5 mmole), and acetonitrile (0.4 mL) were combined and heated at 115 C. with stirring for 3 hr. After cooling, the reaction was diluted with 50 mL dichloromethane and extracted with 5×30 mL water. The combined, filtered water layers were evaporated to yield 2.2 g crude product, which crystallized from acetonitrile/ether after several days to afford 1.22 g of the title compound, mp 130-131.5 C.

reactant | 1-(2-Thiazolyl)ethyl benzoate | 8.5 mmole, 2.0 g | C(C1=CC=CC=C1)(=O)OC(C)C=1SC=CN1 | C12H11NO2S
reactant | 2-bromo-1-phenyl-1-ethanone | 8.5 mmole, 1.7 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | acetonitrile | 0.4 mL | C(C)#N | C2H3N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 3-(2-Oxo-2-phenylethyl)-2-(1-benzoyloxyethyl)thiazolium bromide | 1.22 g | [Br-].O=C(C[N+]1=C(SC=C1)C(C)OC(C1=CC=CC=C1)=O)C1=CC=CC=C1 | InChI=1S/C20H18NO3S.BrH/c1-15(24-20(23)17-10-6-3-7-11-17)19-21(12-13-25-19)14-18(22)16-8-4-2-5-9-16;/h2-13,15H,14H2,1H3;1H/q+1;/p-1
